US06232290B1
A solution of 1-(4-aminophenyl)-1H-pyrazol-4-carboxylic acid methyl ester (3.0 g) in N,N-dimethylformamide (30 ml) was treated with potassium carbonate (5.72 g), sodium iodide (4.14 g) and 1,5-dibromopentane, and the mixture was stirred for 20 hours at room temperature and 6 hours at 80° C., during which period additional N,N-dimethylformamide (20 ml), 1.5-dibromopentane (1.14 g) and potassium carbonate (0.95 g) were added. The reaction mixture was cooled to room temperature and poured into water. The precipitate was collected by filtration, dried over under reduced pressure. The residue was purified by silica gel chromatography (dichloromethane elution) to give 1-(4-piperidylphenyl)-1H-pyrazol-4-carboxylic acid methyl ester (1.34 g).

reactant | 1-(4-aminophenyl)-1H-pyrazol-4-carboxylic acid methyl ester | 3.0 g | COC(=O)C=1C=NN(C1)C1=CC=C(C=C1)N | C11H11N3O2
reactant | potassium carbonate | 5.72 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 4.14 g | [I-].[Na+]
reactant | 1,5-dibromopentane | BrCCCCCBr | C5H10Br2
reactant | 1.5-dibromopentane | 1.14 g | BrCCCCCBr | C5H10Br2
reactant | potassium carbonate | 0.95 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-(4-piperidylphenyl)-1H-pyrazol-4-carboxylic acid methyl ester | 1.34 g | COC(=O)C=1C=NN(C1)C1=C(C=CC=C1)C1CCNCC1 | C16H19N3O2
